US04812470
(b) 5-Diethylphosphonomethyl-2-phenyl oxazole
5-Chloromethyl-2-phenyl oxazole (870 mgs, 4.50 mmol) and triethylphosphite (1.17 ml, 6.75 mmol) were heated at reflux for 3 h, cooled, the excess triethylphosphite removed under reduced pressure and the residue column chormatographed (0 to 5% MeOH/CH2Cl2, 10 g silica) to give the title compound (794 mgs, 2.69 mmol, 60%); δH (CDCl3) 1.30 (6H, t, J 7 Hz, OCH2CH3), 3.30 (2H, d, JP-H 22 Hz, CH2 --P) 4.10 (4H, m, OCHH2CH3), 7.00 (1H, d, JP-H 3 Hz, CH-4), 7.40 (3H, m, Ph), 8.00 (2H, m, Ph).

reactant | 5-Chloromethyl-2-phenyl oxazole | 4.50 mmol, 870 mgs | ClCC1=CN=C(O1)C1=CC=CC=C1 | C10H8ClNO
reactant | triethylphosphite | 6.75 mmol, 1.17 ml | C(C)OP(OCC)OCC | C6H15O3P
product | 5-Diethylphosphonomethyl-2-phenyl oxazole | 2.69 mmol, 794 mgs, 60% | C(C)OP(=O)(OCC)CC1=CN=C(O1)C1=CC=CC=C1 | C14H18NO4P
